US07531553B2
Preparation XI: (R)-2-(5-Amino-2-trifluoromethyl-phenoxymethyl)-1-(tert-butoxycarbonyl)pyrrolidine.
(R)-2-(5-Nitro-2-trifluoromethyl-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (2.19 g, 5.60 mmol) was dissolved in 40 mL MeOH and 10 mL dioxane. To the nitrogen-degassed solution was added 10% Pd/C (0.3 g). The reaction was stirred vigorously at RT under 1 atm H2 gas for 42 h. The reaction was filtered through Celite® and concentrated in vacuo to yield the title compound as a white foam. MS (MNa+)=383.3; Calc'd 360.38 for C17H23F3N2O3.

reactant | (R)-2-(5-Nitro-2-trifluoromethyl-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 5.60 mmol, 2.19 g | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COC1=C(C=CC(=C1)[N+](=O)[O-])C(F)(F)F | C17H21F3N2O5
solvent | MeOH | 40 mL | CO | CH4O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (R)-2-(5-Amino-2-trifluoromethyl-phenoxymethyl)-1-(tert-butoxycarbonyl)pyrrolidine | NC=1C=CC(=C(OC[C@@H]2N(CCC2)C(=O)OC(C)(C)C)C1)C(F)(F)F | C17H23F3N2O3
